US05206129
Triethylamine (20.2 grams, 0.200 mol) was added to 200 ml of a tetrahydrofuran (THF) solution of 16.9 grams (0.100 mol) of 5-cyano-3-methyl-4-nitroisothiazole, and 74.6 grams (0.200 mol) of 4-dodecylsulfonylbenzoyl chloride was added dropwise. After heating under reflux for 8 hours, 200 ml of 1N aqueous sodium hydroxide solution was added dropwise. After heating under reflux for 3 hours, the reaction mixture was left to cool, poured into ice water and extracted with ethyl acetate. 5-Cyano-3-(4-dodecylsulfonylbenzoylmethyl)-4-nitroisothiazole (11.9 grams, 23.5 mmol) was obtained on refinement using silica gel column chromatography.

reactant | Triethylamine | 0.200 mol, 20.2 grams | C(C)N(CC)CC | C6H15N
reactant | 5-cyano-3-methyl-4-nitroisothiazole | 0.100 mol, 16.9 grams | C(#N)C1=C(C(=NS1)C)[N+](=O)[O-] | C5H3N3O2S
reactant | 4-dodecylsulfonylbenzoyl chloride | 0.200 mol, 74.6 grams | C(CCCCCCCCCCC)S(=O)(=O)C1=CC=C(C(=O)Cl)C=C1 | C19H29ClO3S
reactant | sodium hydroxide | 1N, 200 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 5-Cyano-3-(4-dodecylsulfonylbenzoylmethyl)-4-nitroisothiazole | 23.5 mmol, 11.9 grams | C(#N)C1=C(C(=NS1)CC(C1=CC=C(C=C1)S(=O)(=O)CCCCCCCCCCCC)=O)[N+](=O)[O-] | C24H31N3O5S2
